US08440652B2
A solution of 6-bromo-4,4-dimethyl-3,4-dihydroisoquinolin-1(2H)-one (500 mg, 1.97 mmol), diboron pinacol ester (752 mg, 2.96 mmol), KOAc (773 mg, 7.88 mmol) and Pd(dppf)Cl2 (43 mg, 0.06 mmol) in dioxane (7 mLI) was heated for 2 hours at 100° C. under reflux. At completion the reaction was cooled to room temperature, filtered and concentrated the purified by flash chromatography over silica gel, (2-5% DCM/MeOH eluent). The product containing fractions were concentrated, taken up in hexanes, sonicated and filtered to afford 4,4-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (511 mg, 86% yield) as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 8.09 (d, J=7.6 Hz, 1H), 7.71-7.87 (m, 2H), 3.33 (d, J=3.1 Hz, 2H), 1.39 (m, J=8.0 Hz, 18H); MS (EI) m/z=302.2 [M+1]+.

reactant | 6-bromo-4,4-dimethyl-3,4-dihydroisoquinolin-1(2H)-one | 1.97 mmol, 500 mg | BrC=1C=C2C(CNC(C2=CC1)=O)(C)C | C11H12BrNO
reactant | diboron pinacol ester | 2.96 mmol, 752 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.88 mmol, 773 mg | CC(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 43 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4,4-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 511 mg, 86% yield | CC1(CNC(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)=O)C | C17H24BNO3
